US04627872
(a) 4,6-Dichloro-2-(3-methoxypropylamino)-pyrimidine/1st stage
48 g (0.54 mole) of 3-methoxypropylamine are added dropwise to 50 g (0.27 mole) of 2,4,6-trichloropyrimidine, dissolved in 300 ml of tetrahydrofuran, at -30° C. After the reaction mixture has thawed to room temperature and been stirred for a further six hours, it is poured into ice water and extracted with methylene chloride, the extract is dried over sodium sulphate and the solvent is removed. The resulting residue is subjected to steam distillation in the course of which 10.6 g (16.6% of theory) of the desired pyrimidine pass over as a solid, melting point 48° C.

reactant | 3-methoxypropylamine | 0.54 mole, 48 g | COCCCN | C4H11NO
reactant | 2,4,6-trichloropyrimidine | 0.27 mole, 50 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4,6-Dichloro-2-(3-methoxypropylamino)-pyrimidine | ClC1=NC(=NC(=C1)Cl)NCCCOC | C8H11Cl2N3O
